US08084448B2
B. 2-Benzyloxy-4-chlorobenzoic Acid
To a solution of 2-benzyloxy-4-chlorobenzoic acid benzyl ester in EtOH (500 mL) is added 1N NaOH (100 mL) and the mixture is stirred at 60° C. for 24 h. The mixture is allowed to cool to RT and is acidified with 1N HCl. The volume of the solution is reduced to 250 mL and the resulting precipitate is filtered, washed with water and dried to give the title compound as an off-white solid.

reactant | 2-benzyloxy-4-chlorobenzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=C(C=C1)Cl)OCC1=CC=CC=C1)=O | C21H17ClO3
reactant | NaOH | 1N, 100 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 500 mL | CCO | C2H6O
product | 2-Benzyloxy-4-chlorobenzoic Acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)Cl | C14H11ClO3
